US04259336
4-Hydroxy-2-methyl-N-(4-methyl-2-pyridyl)-2H-[1]benzothieno-[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 4-methyl-2-amino-pyridine with a yield of 31% of theory.

reactant | methyl 4-hydroxy-2-methyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | 4-methyl-2-amino-pyridine | CC1=CC(=NC=C1)N | C6H8N2
product | 4-Hydroxy-2-methyl-N-(4-methyl-2-pyridyl)-2H-[1]benzothieno-[2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 31% | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC1=NC=CC(=C1)C | C18H15N3O4S2
